US04226775
As for Example 8, 3-(benzoyl)-2-methylacrylic acid is coupled to L-proline to give 1-[3-benzoyl-2-methylacryloyl]-L-proline. The preceding compound is reacted with thiolacetic acid in carbontetrachloride to give the product of the example as a glass.

reactant | 3-(benzoyl)-2-methylacrylic acid | C(C1=CC=CC=C1)(=O)C=C(C(=O)O)C | C11H10O3
reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
product | 1-[3-benzoyl-2-methylacryloyl]-L-proline | C(C1=CC=CC=C1)(=O)C=C(C(=O)N1[C@H](C(=O)O)CCC1)C | C16H17NO4
